US09193707B2
2. Synthesis of ethyl 2-(4-methylphenyl)quinazoline-4-carboxylate
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 4-methyl-N-phenylbenzamide (6 g, 28.40 mmol, 1.00 equiv) in toluene (60 mL) and PCl5 (7.13 g, 34.24 mmol, 1.20 equiv). The mixture was stirred for 2 h at 65° C. The mixture was concentrated under vacuum. The residue was diluted with 30 mL of PhCl. To the mixture was added 2-ethoxy-2-oxoacetonitrile (3.37 g, 34.01 mmol, 1.20 equiv), SnCl4 (12.5 g, 1.70 equiv). The resulting solution was allowed to react, with stirring, overnight while the temperature was maintained at 125° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was extracted with 3×100 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 4×100 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:30). This resulted in 2.64 g (32%) of ethyl 2-(4-methylphenyl)quinazoline-4-carboxylate as a light green solid. MS (ESI) m/z 293 ([M+H]+).

reactant | 4-methyl-N-phenylbenzamide | 28.40 mmol, 6 g, 1.00 equiv | CC1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C14H13NO
reactant | PCl5 | 34.24 mmol, 7.13 g, 1.20 equiv | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-ethoxy-2-oxoacetonitrile | 34.01 mmol, 3.37 g, 1.20 equiv | C(C)OC(C#N)=O | C4H5NO2
reactant | SnCl4 | 12.5 g, 1.70 equiv | Cl[Sn](Cl)(Cl)Cl
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(4-methylphenyl)quinazoline-4-carboxylate | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C18H16N2O2
